US04994477
Benzyl 3-Formylindole-2-carboxylate
A mixture of 6.5 ml (70 mmol) of phosphorus oxychloride and 9.3 ml (70 mmol) of N-methylformanilide was stirred at ambient temperature. The resulting mixture was diluted with 90 ml of 1,2-dichloroethane, treated with 15.0 g (59.8 mmol) of benzyl indole-2-carboxylate, and heated at reflux for 1 h. After being allowed to cool for 5 min, the warm solution was poured into an ice-cold solution of 60 g of sodium acetate hydrate in 200 ml of water. The resulting mixture was stirred for 1 h, filtered, and the yellow solid was washed twice with water and twice with ether, and air-dried. The filtrate was treated with 400 ml of hexane and filtered. The combined solids were digested with hot ethyl acetate, cooled to 0° C., and filtered to give 13.41 g (80%) of the desired compound as an off-white solid. 1H NMR (CDCl3 /CD3OD) δ 5.50 (s,2H), 7.3-7.55 (m, 8H), 8.38 (d,J=9 Hz,1H). Mass spectrum: (M+H)+ =280.

reactant | phosphorus oxychloride | 70 mmol, 6.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-methylformanilide | 70 mmol, 9.3 ml | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | benzyl indole-2-carboxylate | 59.8 mmol, 15.0 g | N1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | sodium acetate hydrate | 60 g | O.C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 90 ml | ClCCCl | C2H4Cl2
solvent | water | 200 ml | O | H2O
product | Benzyl 3-Formylindole-2-carboxylate | 13.41 g, 80% | C(=O)C1=C(NC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C17H13NO3
